US08048862B2
Preparation of (1R,2R)-1-(tert-butoxycarbonylamino)-2-vinyl-cyclopropane-1-carbonyl-cyclopropanesulfonamide
(1R,2R)-1-(tert-Butoxycarbonylamino)-2-vinyl-cyclopropane-1-carboxylic acid (1.72 g, 7.57 mmol., 1.0 eq.) and dichloroethane (38 mL) were charged into a 100 mL round bottom flask. 1,1′-Carbonyldiimidazole (1.72 g, 10.61 mmol., 1.4 eq.) was added portionwise and the reaction mixture stirred at 50° C. for 15 hours. Cyclopropanesulfonamide (2.47 g, 20.4 mmol., 2.7 eq.) was added portionwise followed by dropwise addition of DBU (3.11 g, 20.4 mmol., 2.7 eq.). Stirring was continued at 50° C. for a further 15 hours by when LCMS analysis of the reaction mixture showed full consumption of the starting material. The solvent was removed under vacuum. The residue was partitioned between dichloromethane (50 mL) and 0.5 M hydrochloric acid (20 mL). The organic phase was washed with brine (20 mL), dried over sodium sulfate, filtered and the solvent removed under vacuum. The residue was purified by flash column chromatography using heptanes:ethyl acetate gradient (60:50 to 50:50) as eluent. After combining the relevant fractions and removing the solvent under vacuum, 1.12 g (45%) of the title compound was isolated as a yellow semi solid. 1H NMR (500 MHz, CDCl3) δ ppm 9.71 (br. s, 1 H), 5.61 (br. s, 1 H), 5.32 (d, J=16.87 Hz, 1 H), 5.20-5.28 (m, 1 H), 5.18 (d, J=10.27 Hz, 1 H), 2.88-3.00 (m, 1 H), 2.16 (q, J=8.44 Hz, 1 H), 1.87-1.96 (m, 1 H), 1.51 (s, 9 H), 1.40-1.47 (m, 1 H), 1.24-1.36 (m, 2 H), 1.07-1.16 (m, 1 H), 0.99-1.07 (m, 1 H). LC-MS: purity 100% (ELS), tR 1.74 min, m/z [M−H]-329.10.

reactant | (1R,2R)-1-(tert-Butoxycarbonylamino)-2-vinyl-cyclopropane-1-carboxylic acid | 7.57 mmol, 1.72 g, 1.0 eq. | C(C)(C)(C)OC(=O)N[C@]1([C@H](C1)C=C)C(=O)O | C11H17NO4
reactant | dichloroethane | 38 mL | ClC(C)Cl | C2H4Cl2
reactant | 1,1′-Carbonyldiimidazole | 10.61 mmol, 1.72 g, 1.4 eq. | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Cyclopropanesulfonamide | 20.4 mmol, 2.47 g, 2.7 eq. | C1(CC1)S(=O)(=O)N | C3H7NO2S
reactant | DBU | 20.4 mmol, 3.11 g, 2.7 eq. | C1CCC2=NCCCN2CC1 | C9H16N2
product | (1R,2R)-1-(tert-butoxycarbonylamino)-2-vinyl-cyclopropane-1-carbonyl-cyclopropanesulfonamide | 1.12 g, 45% | C(C)(C)(C)OC(=O)N[C@]1([C@H](C1)C=C)C(=O)C1(CC1)S(=O)(=O)N | C14H22N2O5S
